US04491659
Methyl 3-amino-4-C-carbomethoxy-2,3,4,6-tetradeoxy-α-D-arabino-hexopyranoside
A mixture of methyl 3-azido-4-C-carbomethoxy-2,3,4,6-tetradeoxy-α-D-arabino-hexopyranoside (1.19 g, 5.19 mmol) and 5% palladium-on-charcoal (500 mg) in methanol (35 ml) is hydrogenated at a pressure of 1 atmosphere for 5 hours at room temperature. The catalyst is then removed by filtration through Celite and the filtrate evaporated and dried in vacuo to give TLC-chromatographically-homogeneous, ninhydrin positive amino ester; yield 1.01 g (96%).

reactant | methyl 3-azido-4-C-carbomethoxy-2,3,4,6-tetradeoxy-α-D-arabino-hexopyranoside | 5.19 mmol, 1.19 g | N(=[N+]=[N-])[C@@H]1C[C@@H](OC)O[C@@H]([C@H]1C(=O)OC)C | C9H15N3O4
reactant | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
solvent | methanol | 35 ml | CO | CH4O
catalyst | palladium-on-charcoal | 500 mg | [Pd] | Pd
product | Methyl 3-amino-4-C-carbomethoxy-2,3,4,6-tetradeoxy-α-D-arabino-hexopyranoside | N[C@@H]1C[C@@H](OC)O[C@@H]([C@H]1C(=O)OC)C | C9H17NO4
